US08067420B2
To a mixture of (4-methoxyphenyl)methanamine (9.90 g, 72.2 mmol) in THF (40 mL) was slowly added ethyl 2-chloro-2-oxoacetate (10.84 g, 79 mmol). After stirring the reaction at RT for 15 min, a solution of 2,2-dimethoxyethanamine (9.10 g, 87 mmol) and N,N-diisopropylethylamine (37.8 mL, 217 mmol) in EtOAc (40.0 mL) was added. The reaction was heated at reflux for 18 hours; whereupon, after cooling to RT, saturated NaHCO3 (50 ml) was added and the mixture extracted with EtOAc (50 ml). The EtOAc layer was dried over Na2SO4 and concentrated. The crude product was purified by silica gel chromatography employing a solvent gradient (CH2Cl2 to 5% MeOH/CH2Cl2) to elute N1-(2,2-dimethoxyethyl)-N2-(4-methoxybenzyl)oxalamide (7.50 g, 25.3 mmol, 35.1% yield) as white solid. 1H NMR (400 MHz, chloroform-d) δ ppm 9.07 (1H, s), 7.69 (1H, t, J=5.65 Hz), 7.59 (1 H, d, J=8.78 Hz), 6.74 (1H, d, J=8.78 Hz), 4.46 (1H, t, J=5.40 Hz), 3.79 (2H, s), 3.53 (2H, t), 3.44 (6H, s), 2.23 (6H, d, J=5.27 Hz), 1.37 (6H, s).

reactant | (4-methoxyphenyl)methanamine | 72.2 mmol, 9.90 g | COC1=CC=C(C=C1)CN | C8H11NO
reactant | ethyl 2-chloro-2-oxoacetate | 79 mmol, 10.84 g | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | 2,2-dimethoxyethanamine | 87 mmol, 9.10 g | COC(CN)OC | C4H11NO2
reactant | N,N-diisopropylethylamine | 217 mmol, 37.8 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 40.0 mL | CCOC(=O)C | C4H8O2
product | N1-(2,2-dimethoxyethyl)-N2-(4-methoxybenzyl)oxalamide | 25.3 mmol, 7.50 g, 35.1% yield | COC(CNC(C(=O)NCC1=CC=C(C=C1)OC)=O)OC | C14H20N2O5
